US08048887B2
5-(3-(tert-Butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
DIEA (50 μL, 0.29 mmol) was added to a suspension of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (50 mg, 0.13 mmol) and HATU (60 mg, 0.16 mmol) in DMF (0.5 mL). The solids dissolved over 5 min, at which point tert-butylamine (20 μL, 0.19 mmol) was added. The solution was stirred at r.t. for 1 h, then diluted with CH3CN (1 mL), filtered, purified by prep HPLC, concentrated, and dried in a vacuum oven over the weekend at 40° C. to give the title compound (39 mg, 69% yield) as a white powder. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.53 (q, J=4.37 Hz, 1H) 8.08 (s, 1H) 8.01 (dd, J=8.24, 5.80 Hz, 2H) 7.92 (d, J=7.93 Hz, 2H) 7.84 (d, J=7.63 Hz, 1H) 7.77-7.82 (m, 2H) 7.73-7.77 (m, 1H) 7.55 (t, J=7.63 Hz, 1H) 7.40 (t, J=8.85 Hz, 2H) 2.87 (d, J=4.58 Hz, 3H) 1.42 (s, 9H). 13C NMR (125 MHz, DMSO-d6) δ ppm 166.20 (s) 163.22 (s) 162.66 (d, J=246 Hz) 152.56 (s) 152.52 (s) 140.06 (s) 136.53 (s) 135.76 (s) 129.38 (d, J=12 Hz) 129.36 (s) 128.70 (s) 127.86 (s) 126.27 (s) 125.86 (s) 125.70 (d, J=2.5 Hz) 124.83 (s) 118.90 (s) 115.93 (d, J=20 Hz) 113.88 (s) 111.60 (s) 50.85 (s) 28.60 (s) 26.19 (s). LC/MS method: solvent A=5% CH3CN/95% H2O/10 mM NH4OAc, solvent B=95% CH3CN/5% H2O/10 mM NH4OAc, start % B=0, final % B=100, gradient time=2 min, stop time=3 min, flow rate=5 ml/min, column: XBridge C18 5 μm 4.6×50 mm; HPLC Rt=1.57, (ES−) m/z (M−)=443. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=11.71 min, purity=100%; column: Waters XBridge phenyl column 3.5 μm 4.6×150 mm, Rt=9.53 min, purity=100%.

reactant | DIEA | 0.29 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.13 mmol, 50 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
reactant | HATU | 0.16 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butylamine | 0.19 mmol, 20 μL | C(C)(C)(C)N | C4H11N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 5-(3-(tert-Butylcarbamoyl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 39 mg, 69% yield | C(C)(C)(C)NC(=O)C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C27H25FN2O3
